US05602170
8.48 g of 5-(4-hydroxy-1-butynyl)-2,2'-bithiophene was dissolved in 100 ml of pyridine. 16 g of p-tosyl chloride was added in under nitrogen gas atmosphere. After stirred overnight, the pyridine was evaporated under reduced pressure. The reside was extracted with ethyl acetate (100 ml) twice, filtered, washed with water (100 ml) twice, HCl solution twice (5%, 100 ml) and water (100 ml) twice again. The organic layer dried over anhydrous magnesium sulfate was filtered and the solvent thereof was evaporated. The residual solid was further purified by rapid silica gel column chromatography. From the eluate of ethyl acetate/n-hexane (1/6). 6.25 g of 5-(4-tosyloxy-1-butynyl)-2,2,'-bithiophene and 1.48 g of 5-(4-chloro-1-butynyl)-2,2'-bithiophene were respectively obtained and the yield thereof was 44% and 16%.

reactant | 5-(4-hydroxy-1-butynyl)-2,2'-bithiophene | 8.48 g | OCCC#CC1=CC=C(S1)C=1SC=CC1 | C12H10OS2
reactant | p-tosyl chloride | 16 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-chloro-1-butynyl)-2,2'-bithiophene | 1.48 g | ClCCC#CC1=CC=C(S1)C=1SC=CC1 | C12H9ClS2
